3
L1 1 0 90.7721416372E-6
L2 2 1 1.5551870420E-3
L3 3 2 28.2E-3
C1 1 0 10E-9 IC=5000
C2 2 0 551.2720845481E-12
C0300 3 0 30.4135447880E-12 IC=0
.TRAN 50E-6 100E-9 BE 100
